US08030324B2
3-(4-Methylpiperazin-1-yl)phenol was reacted with 2,3-dichloro-5-nitro pyridine (as obtained in preparation 1), to obtain 1-(3-(3-chloro-5-nitropyridin-2-yloxy)phenyl)-4-methylpiperazine which was further converted to the title compound as per the procedure described in preparation 2.

reactant | 3-(4-Methylpiperazin-1-yl)phenol | CN1CCN(CC1)C=1C=C(C=CC1)O | C11H16N2O
reactant | 2,3-dichloro-5-nitro pyridine | ClC1=NC=C(C=C1Cl)[N+](=O)[O-] | C5H2Cl2N2O2
product | 1-(3-(3-chloro-5-nitropyridin-2-yloxy)phenyl)-4-methylpiperazine | ClC=1C(=NC=C(C1)[N+](=O)[O-])OC=1C=C(C=CC1)N1CCN(CC1)C | C16H17ClN4O3
